US04105776
A solution of ethylthiosulfinate (8.4 g) in ethanol (50 ml) is added to an aqueous solution of 3-mercaptopropanoyl-L-proline (10 g) maintained at pH 6-7 by careful addition of sodium hydroxide. The mixture is stirred vigorously at room temperature until negative thiol reaction. The mixture is diluted with water, adjusted to pH 8 and extracted with ethyl acetate, the aqueous phase is acidified to pH 3 and extracted again with ethyl acetate. This latter extract is washed with water, dried and concentrated to dryness to yield 1-[3-(ethyldithio)propanoyl]-L-proline.

reactant | ethylthiosulfinate | 8.4 g | C(C)S(=S)[O-]
reactant | 3-mercaptopropanoyl-L-proline | 10 g | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-(ethyldithio)propanoyl]-L-proline | C(C)SSCCC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO3S2
